 
* Author: FOSSEE
* Date:

.model Q2N2222  NPN( Is=14.34f Xti=3 Eg=1.11 Vaf=74.03 Bf=400 Ne=1.307 
+ Ise=14.34f Ikf=.2847 Xtb=1.5 Br=6.092 Nc=2 Isc=0 Ikr=0 Rc=1 Cjc=7.306p 
+ Mjc=.3416 Vjc=.75 Fc=.5 Cje=22.01p Mje=.377 Vje=.75 Tr=46.91n Tf=411.1p 
+ Itf=.6 Vtf=1.7 Xtf=3 Rb=10) 
v1 net-_r2-pad1_ gnd  dc 10
r1  net-_c1-pad1_ in 50
r2  net-_r2-pad1_ net-_c1-pad2_ 200k
c1  net-_c1-pad1_ net-_c1-pad2_ 40u
r3  net-_c1-pad2_ gnd 50k
r6  out gnd 1k
c2  gnd net-_c2-pad2_ 100u
c3  out net-_c3-pad2_ 40u
r5  net-_r2-pad1_ net-_c3-pad2_ 2k
r4  net-_c2-pad2_ gnd 1.5k
q1 net-_c3-pad2_ net-_c1-pad2_ net-_c2-pad2_ Q2N2222
* u1  in plot_v1
* u2  out plot_v1
v2  in gnd sine(0 10m 1k 0 0)
.tran 10e-06 10e-03 0e-03

* Control Statements 
.control
run
.endc
.end
      			