 
* Author: FOSSEE
* Date:

.model Q2N2222  NPN( Is=14.34f Xti=3 Eg=1.11 Vaf=74.03 Bf=400 Ne=1.307 
+ Ise=14.34f Ikf=.2847 Xtb=1.5 Br=6.092 Nc=2 Isc=0 Ikr=0 Rc=1 Cjc=7.306p 
+ Mjc=.3416 Vjc=.75 Fc=.5 Cje=22.01p Mje=.377 Vje=.75 Tr=46.91n Tf=411.1p 
+ Itf=.6 Vtf=1.7 Xtf=3 Rb=10) 
q1 net-_q1-pad1_ gnd net-_q1-pad3_ Q2N2222
v1 vcb gnd  dc 12
r1  net-_r1-pad1_ net-_q1-pad1_ 1k
r2  net-_q1-pad3_ ie 1k
* u_ic1  vcb net-_r1-pad1_ plot_i2
i1 ie gnd  dc 20m
v_u_ic1 vcb net-_r1-pad1_ 0
.dc v1 -1e-00 5e-00 0.02e-00 i1 -1e-03 5e-03 1e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot i(v_u_ic1)
.endc
.end
      			