 
* Author: FOSSEE
* Date:

.model 1n4148 D(is=2.495E-09 rs=4.755E-01 n=1.679E+00 tt=3.030E-09 cjo=1.700E-12 vj=1 m=1.959E-01 bv=1.000E+02 ibv=1.000E-04)
v1  in1 in2 sine(0 5 50 0 0)
d1 in1 out 1N4148
d3 in2 out 1N4148
d2 gnd in1 1N4148
d4 gnd in2 1N4148
r1  out gnd 1k
* u2  out plot_v1
* u1  in1 in2 plot_v2
.tran 10e-03 100e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out)
plot v(in1,in2)
.endc
.end