 
* Author: FOSSEE
* Date:

.model 1n4148 D(is=2.495E-09 rs=4.755E-01 n=1.679E+00 tt=3.030E-09 cjo=1.700E-12 vj=1 m=1.959E-01 bv=1.000E+02 ibv=1.000E-04)
v1  in_neg gnd sine(0 5 50 0 0)
c1  out_neg in_neg 1n
d1 out_neg gnd 1N4148
v2  in_pos gnd sine(0 5 50 0 0)
c2  out_pos in_pos 1n
d2 gnd out_pos 1N4148
* u1  in_neg plot_v1
* u2  out_neg plot_v1
* u3  in_pos plot_v1
* u4  out_pos plot_v1
.tran 10e-03 100e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in_neg)
plot v(out_neg)
plot v(in_pos)
plot v(out_pos)
.endc
.end
      			