 
* Author: FOSSEE
* Date:

.subckt triac 8 11 10 
* /opt/esim/src/subcircuitlibrary/triac/triac.cir
.model PowerDiode D(
+ Vj=.75
+ Cjo=175p
+ Rs=.25
+ Eg=1.11
+ M=.5516
+ Nbv=1.6989
+ N=1
+ bv=1800
+ Fc=.5
+ Ikf=0
+ Ibv=20.245m
+ Is=2.2E-15
+ Xti=3)
* f3
v3 7 2  dc 0
* f2
v2 6 3  dc 0
c1  8 9 10u
* f1
v1 10 4  dc 0
* u1  9 11 6 aswitch
* u2  9 2 11 aswitch
r1  8 9 1
d1 5 8 PowerDiode
d2 1 7 PowerDiode
Vf3 1 8 0
f3 8 9 Vf3 10
Vf2 3 5 0
f2 8 9 Vf2 10
Vf1 4 8 0
f1 8 9 Vf1 100
a1 9 (11 6)  u1
a2 9 (2 11)  u2
* Schematic Name: aswitch, NgSpice Name: aswitch
.model u1 aswitch(log=TRUE cntl_off=0.1 cntl_on=1 r_on=0.0125 r_off=1000000 )
* Schematic Name: aswitch, NgSpice Name: aswitch
.model u2 aswitch(log=TRUE cntl_off=-0.1 cntl_on=-1 r_on=0.0125 r_off=1000000 )

* Control Statements

.ends triac
.subckt diac 1 2 
* /opt/esim/src/subcircuitlibrary/diac/diac.cir
* u1  1 1 2 aswitch
* u2  1 1 2 aswitch
a1 1 (1 2)  u1
a2 1 (1 2)  u2
* Schematic Name: aswitch, NgSpice Name: aswitch
.model u1 aswitch(log=TRUE cntl_off=0.1 cntl_on=25 r_on=0.0125 r_off=1000000 )
* Schematic Name: aswitch, NgSpice Name: aswitch
.model u2 aswitch(log=TRUE cntl_off=-0.1 cntl_on=-25 r_on=0.0125 r_off=1000000 )

* Control Statements

.ends diac
c2  net-_c2-pad1_ gnd 0.1u
c1  net-_c1-pad1_ gnd 0.1u
r3  net-_c1-pad1_ net-_c2-pad1_ 250
r2  in net-_c1-pad1_ 10k
r1  in out 100
v1  in gnd sine(0 100 100 0 0)
x2 gnd out net-_x1-pad2_ triac
x1 net-_c2-pad1_ net-_x1-pad2_ diac
* u1  in plot_v1
* u2  out plot_v1
* u3  in out plot_v2
.tran 20e-06 20e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in)
plot v(out)
plot v(in,out)
.endc
.end	