 
* Author: FOSSEE
* Date:

.model J2N3819	NJF(Beta=1.304m Betatce=-.5 Rd=1 Rs=1 Lambda=2.25m Vto=-3
+		Vtotc=-2.5m Is=33.57f Isr=322.4f N=1 Nr=2 Xti=3 Alpha=311.7u
+		Vk=243.6 Cgd=1.6p M=.3622 Pb=1 Fc=.5 Cgs=2.414p Kf=9.882E-18
+		Af=1)
c1  net-_c1-pad1_ in 1u
c6  net-_c6-pad1_ gnd 0.1u
v2 net-_r3-pad1_ gnd  dc 10
j1 out net-_c1-pad1_ net-_c6-pad1_ J2N3819
r3  net-_r3-pad1_ out 3k
r2  gnd net-_c1-pad1_ 1meg
r4  gnd net-_c6-pad1_ 470
v1  in gnd sine(0 10m 1k 0 0)
* u1  in plot_v1
* u2  out plot_v1
.tran 10e-06 10e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in)
plot v(out)
.endc
.end