 
* Author: FOSSEE
* Date:

.model J2N3819	NJF(Beta=1.304m Betatce=-.5 Rd=1 Rs=1 Lambda=2.25m Vto=-3
+		Vtotc=-2.5m Is=33.57f Isr=322.4f N=1 Nr=2 Xti=3 Alpha=311.7u
+		Vk=243.6 Cgd=1.6p M=.3622 Pb=1 Fc=.5 Cgs=2.414p Kf=9.882E-18
+		Af=1)
j1 id net-_j1-pad2_ gnd J2N3819
vds1 net-_u_id1-pad1_ gnd  dc 10
vgs1 net-_j1-pad2_ gnd  dc 0
* u_id1  net-_u_id1-pad1_ id plot_i2
v_u_id1 net-_u_id1-pad1_ id 0
.dc vds1 0e-00 50e-00 10e-00 vgs1 0e-03 5e-03 1e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot i(v_u_id1)
.endc
.end