 
* Author: FOSSEE
* Date:

.model 1n4148 D(is=2.495E-09 rs=4.755E-01 n=1.679E+00 tt=3.030E-09 cjo=1.700E-12 vj=1 m=1.959E-01 bv=1.000E+02 ibv=1.000E-04)
d1 in out 1N4148
r1  out gnd 1k
v1  in gnd sine(0 20 50 0 0)
* u2  in plot_v1
* u3  out plot_v1
.tran 10e-03 100e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in)
plot v(out)
.endc
.end
      			