 
* Author: FOSSEE
* Date:

r1  out gnd 100
l1  out gnd 100m
c1  gnd out 10u
v1 in gnd  ac 1 0
r2  out in 1000
* u1  in plot_v1
* u3  out plot_v1
.ac lin 20 1Hz 700Hz

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in)
plot v(out)
.endc
.end
      			