 
* Author: FOSSEE
* Date:

v1 in gnd  dc 10
r1  in net-_r1-pad2_ 1k
* u2  net-_r1-pad2_ out plot_i2
* u3  out plot_v1
* u1  gnd out zener
v_u2 net-_r1-pad2_ out 0
a1 gnd out u1
* Schematic Name: zener, NgSpice Name: zener
.model u1 zener(n_forward=1.0 v_breakdown=5.6 i_sat=1.0e-12 limit_switch=FALSE i_breakdown=2.0e-2 ) 
.dc v1 0e-00 8e-00 0.05e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot i(v_u2)
plot v(out)
.endc
.end
      			